US08247377B2
5-Amino-N-[2-({[(2,6-dichlorophenyl)carbonyl]amino}methyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
To a solution of 5-amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide (0.93 g, 2.57 mmol) in anhydrous tetrahydrofuran (12 ml) was added diisopropylethylamine (0.91 ml, 5.2 mmol) followed by 2,6-dichlorobenzoyl chloride (0.38 ml, 1.05 equiv). There was an immediate exotherm and therefore the mixture was placed in an ice/solid carbon dioxide bath for 20 minutes and then stirred at 21° C. for 17 hours. It was then partitioned between ethyl acetate (100 ml) and 2M hydrochloric acid (20 ml) and the organic phase was washed with water (20 ml), saturated brine (20 ml), saturated sodium bicarbonate (20 ml), water (20 ml) and saturated brine (20 ml) before being dried over magnesium sulphate and evaporated under reduced pressure to give a foam. This was purified on a Flashmaster column of silica (100 g) with a gradient of 0-100% ethyl acetate in cyclohexane over 60 minutes to give the title compound (1.07 g).

reactant | 5-amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 2.57 mmol, 0.93 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN | C14H15F4N5O2
reactant | diisopropylethylamine | 5.2 mmol, 0.91 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-dichlorobenzoyl chloride | 0.38 ml, 1.05 equiv | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 5-Amino-N-[2-({[(2,6-dichlorophenyl)carbonyl]amino}methyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 1.07 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CNC(=O)C1=C(C=CC=C1Cl)Cl | C21H17Cl2F4N5O3
